US07939529B2
reacting 4-(2-chloroethyl)morpholine with 4-bromophenol to yield 4-(2-(4-bromophenoxy)ethyl)morpholine;

reactant | 4-(2-chloroethyl)morpholine | ClCCN1CCOCC1 | C6H12ClNO
reactant | 4-bromophenol | BrC1=CC=C(C=C1)O | C6H5BrO
product | 4-(2-(4-bromophenoxy)ethyl)morpholine | BrC1=CC=C(OCCN2CCOCC2)C=C1 | C12H16BrNO2
